US04732984
B. 2-[4-[4-(6-chloro-2-pyrazinyl)-1-piperazinyl]butyl]-3a,4,7,7a-tetrahydro-4,7-ethano-1,2-benzisothiazol-3(2H)-one 1,1-dioxide,hydrochloride
A solution of 1.0 g (2.9 mmol) of 3a,4,7,7a-tetrahydro-2-(4-bromobutyl)-4,7-ethano-1,2-benzisothiazol-3(2H)-one 1,1-dioxide in 25 ml of anhydrous dimethylformamide is treated with 1.6 g (16 mmol) of triethylamine and 866 mg (3.2 mmol) of 1-(6-chloro-2-pyrazinyl)piperazine, monohydrochloride salt. The mixture is maintained at room temperature with stirring for 15 hours and then is partitioned between water and methylene chloride. The methylene chloride extracts are combined, dried over MgSO4, filtered and rotoevaporated to give crude free base. Preparative HPLC (silica gel; ethyl acetate: methylene chloride (9:1)) followed by evaporation of the appropriate fractions, treatment with ethanolic hydrochloric acid and recrystallization from methanol gives the title compound: mp. 263°-267° C.

reactant | 3a,4,7,7a-tetrahydro-2-(4-bromobutyl)-4,7-ethano-1,2-benzisothiazol-3(2H)-one 1,1-dioxide | 2.9 mmol, 1.0 g | BrCCCCN1S(C2C(C1=O)C1C=CC2CC1)(=O)=O | C13H18BrNO3S
reactant | triethylamine | 16 mmol, 1.6 g | C(C)N(CC)CC | C6H15N
reactant | 1-(6-chloro-2-pyrazinyl)piperazine, monohydrochloride salt | 3.2 mmol, 866 mg | Cl.ClC1=CN=CC(=N1)N1CCNCC1
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-[4-[4-(6-chloro-2-pyrazinyl)-1-piperazinyl]butyl]-3a,4,7,7a-tetrahydro-4,7-ethano-1,2-benzisothiazol-3(2H)-one 1,1-dioxide,hydrochloride | Cl.ClC1=CN=CC(=N1)N1CCN(CC1)CCCCN1S(C2C(C1=O)C1C=CC2CC1)(=O)=O | InChI=1S/C21H28ClN5O3S.ClH/c22-17-13-23-14-18(24-17)26-11-9-25(10-12-26)7-1-2-8-27-21(28)19-15-3-5-16(6-4-15)20(19)31(27,29)30;/h3,5,13-16,19-20H,1-2,4,6-12H2;1H
